US05321036
A. (R)-3-[[(1,1-Dimethylethoxy)carbonyl]amino]butanoic acid, methyl ester
To a solution of (R)-3-aminobutanoic acid, methyl ester (U.S. Pat. No. 4,585,887) in methylene chloride at room temperature under argon was added triethylamine (11.0 g, 109 mmol, 1.1 eq) and di-tert-butyl dicarbonate (23.76 g, 109 mmol, 1.1 eq). The resulting solution warmed upon mixing and was cooled in an ice bath which was then allowed to warm to room temperature. After 16 hours the reaction mixture was concentrated to 70 g and dissolved in a biphasic mixture of ethyl acetate (~500 mL) and water (~500 mL). The organic layer was removed, washed once more with water (~500 mL), dried over sodium sulfate, and concentrated to a yellow oil (29.9 g) which by NMR was shown to consist of 69% desired product. TLC (10% (10% concentrated aq. ammonium hydroxide/methanol)/methylene chloride): 0.83, p-anisaldehyde.

reactant | (R)-3-aminobutanoic acid, methyl ester | N[C@@H](CC(=O)OC)C | C5H11NO2
reactant | triethylamine | 109 mmol, 11.0 g, 1.1 eq | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 109 mmol, 23.76 g, 1.1 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (R)-3-[[(1,1-Dimethylethoxy)carbonyl]amino]butanoic acid, methyl ester | CC(C)(OC(=O)N[C@@H](CC(=O)OC)C)C | C10H19NO4
